US06583135B2
2-(2,3,4,5-Tetrahydroazepino[4,5-b]indol-6(1H)-yl)ethanol hydrochloride was prepared from tert-butyl 6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate by the procedure used to prepare 2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-ylacetic acid hydrochloride in 48% yield. 1H NMR (300 MHz, CDCl3) δ 3.22, 3.37, 3.44-3.52, 3.80, 4.30, 7.07, 7.15, 7.37, 7.48; MS (ESI+) for C14H18N2O m/z 231.3 (M+H)+.

reactant | tert-butyl 6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | OCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C19H26N2O3
reactant | 2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-ylacetic acid hydrochloride | Cl.C1CNCCC=2N(C=3C=CC=CC3C21)CC(=O)O
product | 2-(2,3,4,5-Tetrahydroazepino[4,5-b]indol-6(1H)-yl)ethanol hydrochloride | 48% yield | Cl.C1CNCCC=2N(C=3C=CC=CC3C21)CCO | InChI=1S/C14H18N2O.ClH/c17-10-9-16-13-4-2-1-3-11(13)12-5-7-15-8-6-14(12)16;/h1-4,15,17H,5-10H2;1H
